US09428528B2
Step 1 Preparation of 5-Bromo-2-chloromethyl-pyridine
To a stirred solution of (5-Bromo-pyridin-2-yl)-methanol (1 g, 5.319 mmol) in CH2Cl2 (20 mL) is added drop wise thionyl chloride (0.57 mL, 7.979 mmol) at 0° C. then stirred for another 4 hours. Reaction mixture is diluted with saturated sodium bicarbonate solution and extracted with CH2Cl2. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by column chromatography using 7% ethyl acetate in hexane as an eluent to afford the title compound (0.8 g). 1HNMR (400 MHz, DMSO-d6) δ: 4.7 (s, 2H), 7.53 (d, 8.36 Hz, 1H), 8.09-8.11 (dd, J1=2.44 Hz, J2=8.23 Hz, 1H), 8.69 (d, J=2.4 Hz, 1H), LC-MS (M/Z): [M+H]=206.0.

reactant | (5-Bromo-pyridin-2-yl)-methanol | 5.319 mmol, 1 g | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | thionyl chloride | 7.979 mmol, 0.57 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-Bromo-2-chloromethyl-pyridine | 0.8 g | BrC=1C=CC(=NC1)CCl | C6H5BrClN
